US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 6 using (S)-4-(tert-butoxycarbonylamino)-6-methylthiochromane-7-carboxylic acid methyl ester (8.10 g) and potassium carbonate (9.94 g), the objective (S)-4-(tert-butoxycarbonylamino)-6-methylthiochromane-7-carboxylic acid (6.05 g) was obtained as colorless crystals.

reactant | (S)-4-(tert-butoxycarbonylamino)-6-methylthiochromane-7-carboxylic acid methyl ester | 8.10 g | COC(=O)C1=C(C=C2[C@H](CCSC2=C1)NC(=O)OC(C)(C)C)C | C17H23NO4S
reactant | potassium carbonate | 9.94 g | C([O-])([O-])=O.[K+].[K+]
product | (S)-4-(tert-butoxycarbonylamino)-6-methylthiochromane-7-carboxylic acid | 6.05 g | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=CC(=C(C=C12)C)C(=O)O | C16H21NO4S
